US08026234B2
(R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid:
A mixture of (R)-methyl 4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoate (400 mg, 0.821 mmol) was suspended in conc. HCl (1.0 mL) and it was stirred at 95° C. for 3-4 hrs. At this time the reaction was cooled to room temperature and filtered to reveal the product as a tan solid (295 mg, 77%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48-1.82 (m, 4H) 1.98-2.02 (m, 4H) 3.29 (s, 3H) 3.51 (br. s., 2H) 3.94 (s, 3H) 4.88 (t, J=8.08 Hz, 1H) 5.30-5.47 (m, 2H) 6.01 (ddd, J=17.43, 12.63, 10.86 Hz, 1H) 7.41-7.57 (m, 1H) 7.82 (s, 1H) 8.12 (s, 1H) 8.31 (d, J=8.08 Hz, 1H). [M+H] calc'd for C23H25F2N5O4, 474. found 474.

reactant | (R)-methyl 4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoate | 0.821 mmol, 400 mg | C1(CCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)OC)C=C2OC)F | C24H27F2N5O4
solvent | HCl | 1.0 mL | Cl | ClH
product | (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C23H25F2N5O4
